datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CSc1ccc[n+:21]([H:20])c1.Cc1ccc2c(c1)[n:10]cn2[C@H]1O[C@@H](CO)[C@H](O)[C@@H](O)[C@@H]1O>>CSc1ccc[n:21]c1.Cc1ccc2c(c1)[n+:10]([H:20])cn2[C@H]1O[C@@H](CO)[C@H](O)[C@@H](O)[C@@H]1O 10=20;20,21=21",
"CC(O)C[N+:21](CC(C)O)(C(C)C)[H:20].CCCSSC(CCO)=C(C)N(C=O)Cc1c[n:10]c(C)nc1N>>CC(O)C[N:21](CC(C)O)C(C)C.CCCSSC(CCO)=C(C)N(C=O)Cc1c[n+:10]([H:20])c(C)nc1N 10=20;20,21=21",
"CCN(CC)CC(O)C[N:10](CC)CC.[NH3+]CCc1c[n+:21]([H:20])c[nH]1>>CCN(CC)CC(O)C[N+:10](CC)(CC)[H:20].[NH3+]CCc1c[n:21]c[nH]1 10=20;20,21=21",
"Nc1ccc2cc[n:10]cc2c1.O=C(/C=C/c1cccs1)[O:21][H:20]>>Nc1ccc2cc[n+:10]([H:20])cc2c1.O=C(/C=C/c1cccs1)[O-:21] 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1.[S-]CC[NH:10]Cc1ccccc1>>C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1.[S-]CC[NH+:10](Cc1ccccc1)[H:20] 10=20;20,21=21",
"CC(=O)NS(=O)(=O)c1ccccc1C(=O)[O:21][H:20].c1ccc2cc3c(ccc[n:10]3)cc2c1>>CC(=O)NS(=O)(=O)c1ccccc1C(=O)[O-:21].c1ccc2cc3c(ccc[n+:10]3[H:20])cc2c1 10=20;20,21=21",
"C[C@H]1CCC2CC[C@H](C)[N:10]21.NCc1cccc[n+:21]1[H:20]>>C[C@H]1CCC2CC[C@H](C)[N+:10]21[H:20].NCc1cccc[n:21]1 10=20;20,21=21",
"C1CNCC[NH+:21]([H:20])CC[NH2+]C1.COCC[SH+]C(C)[O-:10]>>C1CNCC[NH:21]CC[NH2+]C1.COCC[SH+]C(C)[O:10][H:20] 10=20;20,21=21",
"CC(C)[NH2+]CCCCCC[NH:10]C(C)C.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CC(C)[NH2+]CCCCCC[NH+:10](C(C)C)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"O=C([O-])C1Cc2[nH]cnc2C[NH:10]1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C([O-])C1Cc2[nH]cnc2C[NH+:10]1[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"OCC[NH:10]C1CC[NH+](Cc2ccccc2)CC1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>OCC[NH+:10](C1CC[NH+](Cc2ccccc2)CC1)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C(=N/[O-:10])\c1ccco1.[NH3+][C@@H](Cc1c[nH]c[nH+]1)C(=O)N[C@@H](Cc1c[nH]c[nH+]1)C(=O)[O:21][H:20]>>C(=N/[O:10][H:20])\c1ccco1.[NH3+][C@@H](Cc1c[nH]c[nH+]1)C(=O)N[C@@H](Cc1c[nH]c[nH+]1)C(=O)[O-:21] 10=20;20,21=21",
"COc1ccc(C(=S)[N-:10]c2ccc(OC)cc2)cc1.Oc1cc(O)cc([O:21][H:20])c1>>COc1ccc(C(=S)[N:10](c2ccc(OC)cc2)[H:20])cc1.Oc1cc(O)cc([O-:21])c1 10=20;20,21=21",
"CC[NH+](CC)CCC[N:10](CC)CC.COc1cn[n+:21]([H:20])c2ccccc12>>CC[NH+](CC)CCC[N+:10](CC)(CC)[H:20].COc1cn[n:21]c2ccccc12 10=20;20,21=21",
"C[N+:21](C)(c1ccc(/C=N/c2ncc3[nH+]c[nH]c3n2)cc1)[H:20].[NH3+]c1ccc(CC(=O)[O-:10])cc1>>C[N:21](C)c1ccc(/C=N/c2ncc3[nH+]c[nH]c3n2)cc1.[NH3+]c1ccc(CC(=O)[O:10][H:20])cc1 10=20;20,21=21",
"CC(C)([NH3+])C[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CC(C)([NH3+])C[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"Cc1cc(C)c2cccc([O-:10])c2n1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1cc(C)c2cccc([O:10][H:20])c2n1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=C([O-])CCCCC[NH2:10].O=C(c1cccc(C2CC2)c1)[O:21][H:20]>>O=C([O-])CCCCC[NH2+:10][H:20].O=C(c1cccc(C2CC2)c1)[O-:21] 10=20;20,21=21",
"CN(CC[NH+](C)C)CC[NH2:10].Cc1cc([O-])[n+:21]([H:20])c2c1CCO2>>CN(CC[NH+](C)C)CC[NH2+:10][H:20].Cc1cc([O-])[n:21]c2c1CCO2 10=20;20,21=21",
"CNC(N)=[NH:10].Cc1c[n+:21]([H:20])c2c(C)ccc([N+](=O)[O-])c2c1NCCC[NH+](C)C>>CNC(N)=[NH+:10][H:20].Cc1c[n:21]c2c(C)ccc([N+](=O)[O-])c2c1NCCC[NH+](C)C 10=20;20,21=21",
"O=C1SC2=C(C=CC=C2)[CH:21]1[H:20].c1ccc2c(c1)CC[NH:10]C2>>O=C1SC2=C(C=CC=C2)[CH-:21]1.c1ccc2c(c1)CC[NH+:10]([H:20])C2 10=20;20,21=21",
"Cc1ccc([NH:10]CCS)cc1.Cc1ccnc(-c2cc(C)cc[n+:21]2[H:20])c1>>Cc1ccc([NH+:10](CCS)[H:20])cc1.Cc1ccnc(-c2cc(C)cc[n:21]2)c1 10=20;20,21=21",
"CC(C)(C)CC#CC(=O)[O-:10].CC(C)[C@H]1C[NH2+][C@H](C(=O)[O-])[C@H]1CC(=O)[O:21][H:20]>>CC(C)(C)CC#CC(=O)[O:10][H:20].CC(C)[C@H]1C[NH2+][C@H](C(=O)[O-])[C@H]1CC(=O)[O-:21] 10=20;20,21=21",
"CC1=[N:10]CCCCN1.Nc1ccc[nH+]c1C(=O)[O:21][H:20]>>CC1=[N+:10]([H:20])CCCCN1.Nc1ccc[nH+]c1C(=O)[O-:21] 10=20;20,21=21",
"CC(C[NH2:10])C(=O)[O-].c1cc([N+:21]2([H:20])CCCCC2)ccc1N1CCCCC1>>CC(C[NH2+:10][H:20])C(=O)[O-].c1cc([N:21]2CCCCC2)ccc1N1CCCCC1 10=20;20,21=21",
"CCC(C)[NH:10]C(C)C.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>CCC(C)[NH+:10](C(C)C)[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"Cc1cc(C)c(/N=N/c2c(C)cc([O:21][H:20])cc2C)c(C)c1.Nc1nc[nH+]c([O-:10])c1N>>Cc1cc(C)c(/N=N/c2c(C)cc([O-:21])cc2C)c(C)c1.Nc1nc[nH+]c([O:10][H:20])c1N 10=20;20,21=21",
"O=C(c1ccccc1)N(c1ccccc1)[O:21][H:20].[NH3+][C@H]1C[C@H]2CCCC[C@@H]2C[C@H]1[NH2:10]>>O=C(c1ccccc1)N(c1ccccc1)[O-:21].[NH3+][C@H]1C[C@H]2CCCC[C@@H]2C[C@H]1[NH2+:10][H:20] 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1cc(CCC[NH2:10])ccn1>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1cc(CCC[NH2+:10][H:20])ccn1 10=20;20,21=21",
"COc1c(O)cccc1C[NH2:10].O=[N+]([O-])c1cc(Br)c([O:21][H:20])c(Br)c1>>COc1c(O)cccc1C[NH2+:10][H:20].O=[N+]([O-])c1cc(Br)c([O-:21])c(Br)c1 10=20;20,21=21",
"CCc1ccc([O-:10])c(C(C)C)c1.Clc1ccc(/C=C/c2n[n+:21]([H:20])nn2-c2ccccc2)cc1>>CCc1ccc([O:10][H:20])c(C(C)C)c1.Clc1ccc(/C=C/c2n[n:21]nn2-c2ccccc2)cc1 10=20;20,21=21",
